US04757070
3-(4-Acetoxymethylindol-3-yl)-4-methoxy-2-nitrobutyric acid ethyl ester
4-Acetoxymethylindole (189 g) is dissolved in a mixture of toluene (6 l) and acetic acid (0.7 l). To this solution is added 3-hydroxy-2-nitro-5-oxa-hexanoic acid ethyl ester (570 ml). The flask containing the mixture is evacuated by means of a water jet pump. Then balancing to normal pressure is brought about by argon. Evacuation and pressure balancing are repeated four times. Then the reaction mixture is refluxed for two hours in a water-free argon atmosphere. After concentrating to 2 l the solution is diluted with ethyl acetate and shaken out three times with a liter of 1N hydrochloric acid each. Then it is washed to neutrality with saturated hydrochloric acid solution. The solution, dried over sodium sulfate, is evaporated. The residue is chromatographed on silica gel with dichloromethane. 393 g of the title compound is obtained in oily form.

reactant | 4-Acetoxymethylindole | 189 g | C(C)(=O)OCC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 3-hydroxy-2-nitro-5-oxa-hexanoic acid ethyl ester | 570 ml | C(C)OC(C(C(COC)O)[N+](=O)[O-])=O | C7H13NO6
solvent | toluene | 6 l | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 0.7 l | C(C)(=O)O | C2H4O2
product | 3-(4-Acetoxymethylindol-3-yl)-4-methoxy-2-nitrobutyric acid ethyl ester | 393 g | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)COC(C)=O)[N+](=O)[O-])=O | C18H22N2O7
